US05705508
To a solution of baccatin IVa (79.6 mg, 0.09 mmol) and N-benzoyl-β-lactam Va-a-EE (45.8 mg, 0.14 mmol) in 3.0 mL of THF, was added NaHMDS 0.13 mL (1.2 eq, 0.85M soln. in THF) at -40° C. over the period of 30 min. TLC analysis of the reaction mixture revealed that baccatin IIIa was completely consumed. The reaction mixture was quenched with 10 mL saturated NH4Cl solution. The reaction mixture was extracted with ether (10 mL×3), then dichloromethane (10 mL), and the combined extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated to give the crude product. The crude product was purified by column chromatography on silica gel using EtOAc/hexanes (1:3) as the eluant to 2-EEO-3-phenylpropanoyl]-10-deacetyl-14-hydroxy-baccatin III (IIa-EE) as a white solid. This protected taxane IIa-EE was treated with Zn in acetic acid at 60° C. for 9 h. The reaction mixture was filtered on a glass filter and the filtrate was condensed in vacuo. The residue was redissolved in CH2Cl2, and Zn salt was removed by filtration to give the crude product. This crude product was purified by column chromatography on silica gel using EtOAc/hexanes (3:1) as the eluant to give 33.7 mg (75%) of taxane IIa as a white powder having the identification data shown below: mp 198°-202° C.; [α]D20 -13.2 (c 0.38, MeOH); 1H NMR (CDCl3) δ 1.17 (s, 3H), 1.20 (s, 3H), 1.74 (s, 3H, H19), 1.84 (m, 1H, H6b), 2.14 (s, 3H, H18), 2.17 (s, 3H, 4-OAc), 2.60, (m, 1H, H6a), 3/07 (bs, 1H, 2'-OH), 4.03 (d, J=6.6 Hz, 1H, H3), 4.14 (d, J=8.4 Hz, 1H, H20), 4.27 (m, 3H, H20, H7, 10-OH), 4.55 (m, 1H, H2'), 4.99 (bd, 1H, H5), 5.07 (m, 1H, H13), 5.17 (d, J=5.8 Hz, 1H), 5.34 (s, 1H, H10), 5.65 (d, J=5.7 Hz, 1H, H14), 5.83 (bd, 2H, H2, H3'), 6.91 (d, J=9.4 Hz, 1H, NH), 7.36-7.59 (m, 11H), 7.77 (bd, 2H), 8.15 (bd, 2H); 13C NMR (CDCl3) δ 9.53, 15.32, 20.66, 22.08, 26.03, 29.69, 37.06, 42.85, 46.50, 54.68, 58.00, 71.63, 72.06, 73.60, 75.03, 76.60, 77.12, 78.82, 80.31, 83.98, 127.10, 127.24, 128.25, 128.42, 128.84, 129.04, 130.62, 132.51, 133.59, 135.04, 137.89, 140.68, 166.49, 168.13, 170.86, 172.12, 211.58; IR (CHCl3) n 3632, 3434, 3026, 3016, 2943, 2838, 1724, 1648; Anal. Calcd for C45H49NO14 : C, 65.29; H, 5.97; N, 1.69. Found: C, 65.15; H, 6.01; N, 1.79.

reactant | baccatin | C[C@@]12CC[C@@H]3[C@@]([C@H]1CC[C@@]4(C25C=CC6([C@H]4CC(CC6)(C)C)OO5)C)(C[C@H]([C@@H](C3(C)C)O)O)C | C29H46O4
reactant | NaHMDS | 0.85M, 0.13 mL, 1.2 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | taxane | 33.7 mg, 75% | C[C@@H]1CCC[C@@]2([C@@H]1C[C@@H]3CC[C@H]([C@@H](C3(C)C)CC2)C)C | C20H36
